US05486534
4-(4-Fluorophenyl)-3-[4-(methylsulfonyl)phenyl]-5-(trifluoromethyl)-1H-pyrazole (1.81 g, 4.3 mmol) and ethyl iodide (0.86 g, 5.5 mmol) were stirred vigorously in 20 mL dry dimethylformamide (DMF) with finely powdered potassium carbonate (0.58 g, 4.2 mmol) under nitrogen at 25° C. for 18 hours. The mixture was diluted with ethyl acetate and filtered to remove solids. The organic filtrate was washed with two portions of water followed by brine, dried over MgSO4 and concentrated in vacuo. The desired 1-ethyl-4-(4-fluorophenyl)-3-[4-(methylsulfonyl)phenyl]-5-(trifluoromethyl)-1H-pyrazole was isolated by chromatography on silica gel using 10% ethyl acetate/90% toluene as the eluant, giving 0.65 g (69%) of a white solid: mp 133°-135.5° C.

reactant | 4-(4-Fluorophenyl)-3-[4-(methylsulfonyl)phenyl]-5-(trifluoromethyl)-1H-pyrazole | 4.3 mmol, 1.81 g | FC1=CC=C(C=C1)C=1C(=NNC1C(F)(F)F)C1=CC=C(C=C1)S(=O)(=O)C | C17H12F4N2O2S
reactant | ethyl iodide | 5.5 mmol, 0.86 g | C(C)I | C2H5I
reactant | potassium carbonate | 4.2 mmol, 0.58 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-ethyl-4-(4-fluorophenyl)-3-[4-(methylsulfonyl)phenyl]-5-(trifluoromethyl)-1H-pyrazole | C(C)N1N=C(C(=C1C(F)(F)F)C1=CC=C(C=C1)F)C1=CC=C(C=C1)S(=O)(=O)C | C19H16F4N2O2S
